US07148229B2
A solution of N-[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-[5-(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonylamino)-pyridin-2-yl]-acetamide in N,N,-dimethylformamide was treated with potassium carbonate (4.0 eq.) and (bromomethyl)cyclobutane (2.0 eq.). The reaction mixture was heated to 40° C. for 16 h. At this time, the N,N,-dimethylformamide was removed in vacuo. The residue was triturated with chloroform and then methanol to remove impurities. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 10/90 methanol/chloroform) afforded N-[6-amino-1-cyclobutylmethyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-[5-(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonylamino)-pyridin-2-yl]-acetamide (15%) as a light brown solid; LRMS for C29H31ClFN7O5S (M+H)+ at m/z=645.

reactant | N-[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-[5-(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonylamino)-pyridin-2-yl]-acetamide | NC1=C(C(N(C(N1)=O)CC1=C(C=CC=C1)F)=O)NC(CC1=NC=C(C=C1)NS(=O)(=O)C=1C(=NN(C1Cl)C)C)=O | C23H22ClFN8O5S
reactant | potassium carbonate | 4.0 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)cyclobutane | 2.0 eq. | BrCC1CCC1 | C5H9Br
solvent | N,N,-dimethylformamide | CN(C)C=O | C3H7NO
product | N-[6-amino-1-cyclobutylmethyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-[5-(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonylamino)-pyridin-2-yl]-acetamide | 15% | NC1=C(C(N(C(N1CC1CCC1)=O)CC1=C(C=CC=C1)F)=O)NC(CC1=NC=C(C=C1)NS(=O)(=O)C=1C(=NN(C1Cl)C)C)=O | C28H30ClFN8O5S
